US04229365
1,300 parts of o-chloronitrobenzene, 960 parts of potassium fluoride and 25 parts of cesium fluoride are stirred in 1,300 parts of tetramethylenesulfone under nitrogen for 16 hours at 225° C. The solution is cooled to 110° C. and filtered, the solid residue is washed with 500 parts of methylene chloride and the filtrates are combined and distilled. 991 parts (85.5% of theory) of o-fluoronitrobenzene of boiling point 55° to 57° C/1.2 mm Hg are obtained.

reactant | o-chloronitrobenzene | ClC1=C(C=CC=C1)[N+](=O)[O-] | C6H4ClNO2
reactant | potassium fluoride | [F-].[K+]
reactant | cesium fluoride | [F-].[Cs+]
reactant | tetramethylenesulfone | C1CCCS1(=O)=O | C4H8O2S
product | o-fluoronitrobenzene | 85.5% | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
